US05801271
Synthesis of methyl 7-(N-t-butoxycarbonylamino)-3-hydroxy-2-phenylheptanoate
The same procedures as in Example 26 were performed except that 1 g (2.75 mmol) of methyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate instead of ethyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate was dissolved in 6 ml of methanol, 104 mg (2.75 mol) of sodium borohydride was added, and 5 ml of 4N hydrochloric acid was added to the reaction solution, to prepare the target compound as a pale yellow oil in an amount of 0.9 g at a yield of 90.0%. The products were analyzed to result in that the ratio of the syn-form to the anti-form was 9:1. The analytical results on the target compound are given below.

reactant | methyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate | 2.75 mmol, 1 g | C(C)(C)(C)OC(=O)NCCCCC(C(C(=O)OC)C1=CC=CC=C1)=O | C19H27NO5
reactant | sodium borohydride | 2.75 mol, 104 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 4N, 5 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | methyl 7-(N-t-butoxycarbonylamino)-3-hydroxy-2-phenylheptanoate | yield of 90.0% | C(C)(C)(C)OC(=O)NCCCCC(C(C(=O)OC)C1=CC=CC=C1)O | C19H29NO5
